US08563617B2
34.4 tert-Butyl [7-cyano-1-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate
Diphenylphosphinoferrocene (100 mg, 0.18 mmol) and dipalladium trisdibenzylideneacetone (41 mg, 0.045 mmol) were suspended under an atmosphere of argon in dry dimethylformamide (5 mL). After stirring at room temperature for 40 min 7-[(tert-butoxycarbonyl)amino]-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (0.5 g, 0.902 mmol) was added and the reaction mixture was heated to 90° C. Over 30 min zinc cyanide (159 mg, 1.353 mmol) was added in small portions. After complete addition stirring was continued at 90° C. for 2 h. The reaction mixture was cooled to room temperature diluted with dichloromethane (50 mL), washed with saturated NaHCO3 (3×10 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (dichloromethane, silica gel). Yield: 97 mg (0.225 mmol, 25%).

reactant | 7-[(tert-butoxycarbonyl)amino]-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.902 mmol, 0.5 g | FC(S(=O)(=O)OC1=CC=2C(C(CCC2C=C1)NC(=O)OC(C)(C)C)CC1=CC(=C(C=C1)Cl)Cl)(F)F | C23H24Cl2F3NO5S
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Diphenylphosphinoferrocene | 0.18 mmol, 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
catalyst | zinc cyanide | 1.353 mmol, 159 mg | [C-]#N.[Zn+2].[C-]#N
product | tert-Butyl [7-cyano-1-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | C(#N)C1=CC=C2CCC(C(C2=C1)CC1=CC(=C(C=C1)Cl)Cl)NC(OC(C)(C)C)=O | C23H24Cl2N2O2
